US05801253
2.03 g of NaH (50% in mineral oil) was suspended in 120 ml of DMF. 12.9 g of 4-(diethoxy-phosphinyl)-3-methyl-but-2-enoic acid ethyl ester was added at 0°. The mixture was stirred for 15 min at 0° and for 30 min at RT. After recooling to 0°, 5.72 g of 2-bromo-cyclopent-1-enecarbaldehyde, dissolved in 11 ml of DMF, was added drop by drop and allowed to react for 10 min. at 0° and for 2 h at RT. The mixture was then poured onto crushed ice, extracted with EtOEt, washed with sat. NaCi-solution, dried over Na2SO4, and evaporated to dryness. Purification of the residue by flash chromatography (silica gel, hexane/AcOEt=97/3) and crystallization from hexane/trace amounts of AcOEt yielded finally 3.408 g of pure (2E,4E)-5-(2-bromo-cyclopent-1-enyl)-3-methyl-penta-2,4-dienoic acid ethyl ester as yellowish crystals of mp. 85°-86°.

reactant | NaH | 2.03 g | [H-].[Na+]
reactant | 4-(diethoxy-phosphinyl)-3-methyl-but-2-enoic acid ethyl ester | 12.9 g | C(C)OC(C=C(CP(=O)(OCC)OCC)C)=O | C11H21O5P
reactant | 2-bromo-cyclopent-1-enecarbaldehyde | 5.72 g | BrC1=C(CCC1)C=O | C6H7BrO
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | DMF | 11 ml | CN(C)C=O | C3H7NO
product | (2E,4E)-5-(2-bromo-cyclopent-1-enyl)-3-methyl-penta-2,4-dienoic acid ethyl ester | 3.408 g | C(C)OC(\C=C(\C=C\C1=C(CCC1)Br)/C)=O | C13H17BrO2
